US06054588
Analogously to Example 7a,b, after reacting 1-(2,4-dichlorophenyl)-2-tetrazol-1-yl-ethanone with isopropyl triflate there was obtained 1-[2-(2,4-dichloro-phenyl)-2-isopropoxy-vinyl]-1H-tetrazole as a white powder with m.p. 82° C.

reactant | 1-(2,4-dichlorophenyl)-2-tetrazol-1-yl-ethanone | ClC1=C(C=CC(=C1)Cl)C(CN1N=NN=C1)=O | C9H6Cl2N4O
reactant | isopropyl triflate | O(S(=O)(=O)C(F)(F)F)C(C)C | C4H7F3O3S
product | 1-[2-(2,4-dichloro-phenyl)-2-isopropoxy-vinyl]-1H-tetrazole | ClC1=C(C=CC(=C1)Cl)C(=CN1N=NN=C1)OC(C)C | C12H12Cl2N4O
